US06083659
Preparation of poly(ethoxy-1-ethyloxystyrene-HST)
After dissolving 12 g of poly-hydroxystyrene (poly(HST)) in 60 ml of THF, 3.6 g of ethylvinylether was added to the solution. The p-toluene sulfonic acid (p-TSA) was added to the mixture in sufficient quality to act as a catalyst, and reacted for 12 hours at room temperature. After 12 hours, the reaction product was slowly dropped into water in a ratio of 5 parts water to one part reaction product, and neutralized using potassium carbonate.

reactant | ethylvinylether | 3.6 g | C(C)OC=C | C4H8O
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | ethoxy-1-ethyloxystyrene | C(C)OC=CC1(CC=CC=C1)OCC | C12H18O2
